US07531547B2
A solution of 4-Isopropenyl-3,5-dimethoxy-phenylamine (take directly from step 5) in ethanol (200 mL) was hydrogenated overnight at room temperature and 1 psig of H2 gas using 10% palladium on charcoal catalyst (200 mg). The reaction was filtered through Celite and the pad was washed with additional ethanol. Concentration of the filtrate and purification by silica gel column chromatography eluting with 70/30 hexane/ethyl acetate yielded 4-Isopropyl-3,5-dimethoxy-phenylamine (1.4 g, 69%) as a pale pink solid, MS (M+H)=196.

reactant | 4-Isopropenyl-3,5-dimethoxy-phenylamine | C(=C)(C)C1=C(C=C(C=C1OC)N)OC | C11H15NO2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
product | 4-Isopropyl-3,5-dimethoxy-phenylamine | 1.4 g, 69% | C(C)(C)C1=C(C=C(C=C1OC)N)OC | C11H17NO2
